US07183278B1
3-Hydroxy-4-methoxypicolinic acid
3-Benzyloxy-4-methoxypicolinic acid (5.3 g) was suspended in 25 ml of ethanol. 10% palladium-carbon (0.5 g) was added to the suspension. The mixture was then catalytically hydrogenated under atmospheric pressure for 30 min. The reaction solution was filtered under the reduced pressure. The filtrate was concentrated under the reduced pressure to give 2.8 g (yield 81.6%) of the title compound as colorless powder.

reactant | 3-Benzyloxy-4-methoxypicolinic acid | 5.3 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1OC)C(=O)O | C14H13NO4
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 3-Hydroxy-4-methoxypicolinic acid | 2.8 g, yield 81.6% | OC=1C(=NC=CC1OC)C(=O)O | C7H7NO4
